US05059597
c) Ethyl N-allyl-N-(2-oxoethyl)-carbamate
68 g (0.313 mol) of ethyl N-allyl-N-(2,2-dimethoxyethyl)carbamate are heated with 150 ml of formic acid at 100° C. for one hour. The mixture is poured onto ice and extracted several times with methylene chloride, the organic phases are washed with sodium bicarbonate solution, dried over magnesium sulphate and concentrated and the residue is distilled.

reactant | ethyl N-allyl-N-(2,2-dimethoxyethyl)carbamate | 0.313 mol, 68 g | C(C=C)N(C(OCC)=O)CC(OC)OC | C10H19NO4
solvent | formic acid | 150 ml | C(=O)O | CH2O2
product | Ethyl N-allyl-N-(2-oxoethyl)-carbamate | C(C=C)N(C(OCC)=O)CC=O | C8H13NO3
